US05215987
2-[1-[1-[Bis(4-fluorophenyl)methyl]piperazin-4-yl]-2-hydroxy-3-propanylthio]pyridine Hemihydrate
To NaH (10 mmol, 0.48 g, pentane washed) in DMF (10 mL) was added 2-mercaptopyridine (10 mmol, 1.11 g) at 0° C. After stirring for 2 hours at 0° C., 1-(1-chloro-2-hydroxy-3-propanyl)-4-(4, 4'-difluorobenzhydryl)piperazine (5 mmol, 1.91 g) in DMF (20 mL) was added dropwise under nitrogen over 10 minutes. The mixture was stirred 15 minutes at 0° C. and 5 days at room temperature. The mixture was then filtered and the filtrate concentrated in vacuo (1 mmHg, 70° C.). The concentrated mixture was purified on a silica gel column using 5% methanol:methylene chloride. Crude material thus obtained was rechromatographed on silica gel using 10% acetone:methylene chloride and then 10% methanol:methylene chloride. After drying in a vacuum dessicator overnight, the pure product was an amber glass (0.87 g, 38.1%); DCI MS (M+1)=456; (300 MHz) 1H NMR (CDCl3)δ:8.4 (d,1H) and 7.5 (m,1H), 7.3 (m,4H), 7.25 (m,1H), 7.0 (m,5H), 4.0 (m, 1H), 3.2-3.6 (m,4H), 2.5 (m,10H).

reactant | NaH | 10 mmol, 0.48 g | [H-].[Na+]
reactant | 2-mercaptopyridine | 10 mmol, 1.11 g | SC1=NC=CC=C1 | C5H5NS
reactant | 1-(1-chloro-2-hydroxy-3-propanyl)-4-(4, 4'-difluorobenzhydryl)piperazine | 5 mmol, 1.91 g | ClCC(CN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)O | C20H23ClF2N2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-[1-[1-[Bis(4-fluorophenyl)methyl]piperazin-4-yl]-2-hydroxy-3-propanylthio]pyridine Hemihydrate | O.FC1=CC=C(C=C1)C(N1CCN(CC1)CC(CSC1=NC=CC=C1)O)C1=CC=C(C=C1)F.FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)N1CCN(CC1)CC(CSC1=NC=CC=C1)O | InChI=1S/2C25H27F2N3OS.H2O/c2*26-21-8-4-19(5-9-21)25(20-6-10-22(27)11-7-20)30-15-13-29(14-16-30)17-23(31)18-32-24-3-1-2-12-28-24;/h2*1-12,23,25,31H,13-18H2;1H2
